US07723538B2
A solution of 2-fluoro-4-nitro-benzoic acid (1.0 g, 5.0 mmol) in ethanol (10.0 ml) was treated with concentrated sulfuric acid (0.30 ml) and stirred at reflux overnight. On cooling to room temperature and then to 0° C. a crystalline precipitate formed. This was filtered washing with ethanol/water 2:1, and dried under vacuum, yielding 2-fluoro-4-nitro-benzoic acid ethyl ester (0.75 g, 65%) as an off-white crystalline solid.

reactant | 2-fluoro-4-nitro-benzoic acid | 5.0 mmol, 1.0 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | sulfuric acid | 0.30 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 10.0 ml | C(C)O | C2H6O
product | 2-fluoro-4-nitro-benzoic acid ethyl ester | 0.75 g, 65% | C(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])F)=O | C9H8FNO4
